US05175301
3-Methylamino-5-trifluoromethylpyridine
The reaction procedure of Reference Example 24 was repeated except that 3-amino-5-trifluoromethylpyridine was used in lieu of 5-amino-2-chloropyridine to obtain the title compound as white crystals.

reactant | 3-amino-5-trifluoromethylpyridine | NC=1C=NC=C(C1)C(F)(F)F | C6H5F3N2
reactant | 5-amino-2-chloropyridine | NC=1C=CC(=NC1)Cl | C5H5ClN2
product | 3-Methylamino-5-trifluoromethylpyridine | CNC=1C=NC=C(C1)C(F)(F)F | C7H7F3N2
